US07396844B1
Synthesis of 3-[3-[2-(4-bromophenyl)-5,5-dimethyl-1,3-dioxane-2-yl]propoxy]benzonitrile
236 mg (5.9 mmol) of sodium hydride (oily, 60%) was stirred in dimethylformamide. 691 mg (5.8 mmol) of 3-hydroxybenzonitrile was added thereto under cooling with ice. After stirring at room temperature for 30 minutes, a solution of 2 g (5.75 mmol) of 2-(4-bromophenyl)-2-(3-chloropropyl)-5,5-dimethyl-1,3-dioxane in dimethylformamide was added to the reaction mixture, and they were stirred at 100° C. overnight. Water was added to the mixture. After the extraction with ethyl acetate, the organic layer was washed with 1 N aqueous sodium hydroxide solution and saturated aqueous common salt solution and dried over anhydrous magnesium sulfate. The solvent was evaporated to obtain the crude title compound.

reactant | sodium hydride | 5.9 mmol, 236 mg | [H-].[Na+]
reactant | 3-hydroxybenzonitrile | 5.8 mmol, 691 mg | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | 2-(4-bromophenyl)-2-(3-chloropropyl)-5,5-dimethyl-1,3-dioxane | 5.75 mmol, 2 g | BrC1=CC=C(C=C1)C1(OCC(CO1)(C)C)CCCCl | C15H20BrClO2
reactant | Water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[3-[2-(4-bromophenyl)-5,5-dimethyl-1,3-dioxane-2-yl]propoxy]benzonitrile | BrC1=CC=C(C=C1)C1(OCC(CO1)(C)C)CCCOC=1C=C(C#N)C=CC1 | C22H24BrNO3
